US08808703B2
Step 4: (6S,9R,13R)-9-amino-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid diethyl ester
(6S,9R,13R)-9-(((9H-fluoren-9-yl)methoxy)carbonylamino)-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid diethyl ester (1 eq, from the previous step) in was dissolved in 20% piperidine in THF (0.1 M) and stirred at room temperature for 2 hours. The viscous reaction mixture was diluted in methyl tert-butyl ether and ethyl acetate. The organic layer was washed with 1:1 saturated aqueous NH4Cl/water (2×), brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-5% methanol in DCM to give the product.

reactant | (6S,9R,13R)-9-(((9H-fluoren-9-yl)methoxy)carbonylamino)-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCOC[C@@H](NC([C@H](CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C55H89N2O11PS
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | THF | 0.1 M | C1CCOC1 | C4H8O
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (6S,9R,13R)-9-amino-13-(dodecanoyloxy)-6-methyl-8,16-dioxo-4,15-dioxa-11-thia-7-azaheptacosylphosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCOC[C@@H](NC([C@H](CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O)N)=O)C | C40H79N2O9PS
